US08293768B2
Synthesis of ethyl 3-methyl-5-(2-oxo-3-(2-(tosyloxy)ethyl)imidazolidin-1-yl)thiophene-2-carboxylate
To a stirred solution of ethyl 5-(3-(2-hydroxyethyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate (0.61 g, 2.04 mmol) in dichloromethane (6 mL) and pyridine (0.25 mL) at 0° C. was added toluenesulfonyl chloride in dichloromethane (1 mL). The resulting mixture was allowed to warm to ambient temperature, stirred for 18 h and diluted with dichloromethane (100 mL). The organic layer was washed sequentially with 10% aqueous hydrochloric acid (2×50 mL) and saturated aqueous sodium bicarbonate solution (50 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluted with 0-10% ethyl acetate in dichloromethane to afford the title compound as a colorless solid in 56% yield (0.52 g): 1H NMR (300 MHz, CDCl3) δ 7.77 (d, J=8.1 Hz, 2H), 7.31 (d, J=8.1 Hz, 2H), 6.11 (s, 1H), 4.31-4.20 (m, 4H), 3.77-3.61 (m, 4H), 3.54 (t, J=4.8 Hz, 2H), 2.49 (s, 3H), 2.36 (s, 3H), 1.33 (t, J=7.1 Hz, 3H); MS (ES+) m/z 453.3 (M+1).

reactant | ethyl 5-(3-(2-hydroxyethyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate | 2.04 mmol, 0.61 g | OCCN1C(N(CC1)C1=CC(=C(S1)C(=O)OCC)C)=O | C13H18N2O4S
reactant | toluenesulfonyl chloride | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | dichloromethane | 6 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 1 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 3-methyl-5-(2-oxo-3-(2-(tosyloxy)ethyl)imidazolidin-1-yl)thiophene-2-carboxylate | 56% yield | CC1=C(SC(=C1)N1C(N(CC1)CCOS(=O)(=O)C1=CC=C(C)C=C1)=O)C(=O)OCC | C20H24N2O6S2
